US09328110B2
The general method described in Steps 9 and 10 of Example 1 was used to aminate 1-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)decan-4-one (6.10 g, 17.2 mmol) by reaction with m-CPBA (8.50 g) to provide 1-(5-oxido-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)decan-4-one followed by reaction with p-toluenesulfonyl chloride (4.90 g, 25.8 mmol) and ammonium hydroxide solution (100 mL) to provide 1-(4-amino-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)decan-4-one) as a white solid after recrystallization from aqueous methanol, mp 111-113° C.

reactant | 1-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)decan-4-one | 17.2 mmol, 6.10 g | C(CC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCC(CCCCCC)=O | C23H31N3O
reactant | m-CPBA | 8.50 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | 1-(5-oxido-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)decan-4-one | [O-][N+]1=CC2=C(C=3C=CC=CC13)N(C(=N2)CCC)CCCC(CCCCCC)=O | C23H31N3O2
